US05563295
(2) Synthesis of 2,2'-bis(diphenylphosphinyl)-5,5',6,6',7,7',8,8'-octahydro-1,1'-binaphthyl (compound 2)
A one liter capacity four neck flask was charged with 4.26 g (0.177 mol) of magnesium, the atmosphere in the flask was replaced with nitrogen gas and then a small amount of iodine was added thereto. To this were added 20 ml of dry tetrahydrofuran and, using an injector, 0.6 ml of 1,2-dibromoethane in that order. Through a dropping funnel and spending 7 hours, to this was added dropwise a mixture solution of 330 ml toluene and 90 ml tetrahydrofuran containing 32.5 g (0.0774 mol) of 2,2'-dibromo-5,5',6,6',7,7',8,8'-octahydro-1,1'-binaphthalene synthesized in (1). During this step, temperature of the reaction solution was kept at 80° to 90° C. After completion of the dropwise addition, the reaction mixture was stirred at 94° C. for 19 hours. After cooling to 5° C., to the reaction mixture was added dropwise 34.27 g (0.148 mol) of diphenylphosphinic acid chloride spending 30 minutes. Next, the reaction mixture was stirred at 72° C. for 3.5 hours. The resulting reaction mixture was cooled to room temperature and mixed with 100 ml of water, heated to 80° C. and stirred for 20 minutes, and then cooled again to room temperature and allowed to stand overnight. The thus precipitated white solid was collected by filtration, washed twice with 100 ml of water, washed again with 100 ml of hexane-toluene (9:1) mixture solution and then dried at 70° C. for 7 hours under a reduced pressure (0.1 mmHg) to obtain 32.8 g of the title compound with a yield of 64.1%.

reactant | magnesium | 0.177 mol, 4.26 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | 0.6 ml | BrCCBr | C2H4Br2
reactant | 2,2'-dibromo-5,5',6,6',7,7',8,8'-octahydro-1,1'-binaphthalene | BrC1=C(C=2CCCCC2C=C1)C1=C(C=CC=2CCCCC12)Br | C20H20Br2
reactant | diphenylphosphinic acid chloride | 0.148 mol, 34.27 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
solvent | water | 100 ml | O | H2O
solvent | toluene | 330 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.0774 mol, 90 ml, 32.5 g | O1CCCC1 | C4H8O
product | 2,2'-bis(diphenylphosphinyl)-5,5',6,6',7,7',8,8'-octahydro-1,1'-binaphthyl | 32.8 g, yield of 64.1% | C1(=CC=CC=C1)P(=O)(C1=C(C=2CCCCC2C=C1)C1=C(C=CC=2CCCCC12)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H40O2P2
